US08022072B2
To a solution of methyl salicylate (100.0 g, 657 mmol) in N,N-dimethylformamide (100 ml) were added β-bromophenetole (138.8 g, 690 mmol) and potassium carbonate (136.3 g, 986 mmol), and the mixture was stirred at 80° C. for 10 hr. After cooling the reaction mixture, water (1000 ml) was added, and the precipitated insoluble material was filtered to give methyl 2-(2-phenoxyethoxy)benzoate. This was suspended in methanol (250 ml), aqueous solution (200 ml) of sodium hydroxide (32 g, 800 mmol) was added at room temperature, and the mixture was stirred at 70° C. for 2 hr. After cooling, the mixture was neutralized with 6N-aqueous hydrochloric acid solution, and the precipitated insoluble material was filtered to give a carboxylic acid compound 2-(2-phenoxyethoxy)benzoic acid (160.8 g, 623 mmol, yield 95%). The obtained carboxylic acid compound (160.8 g, 623 mmol) was suspended in toluene (320 ml), thionyl chloride (81.5 g, 685 mmol) was added, and the mixture was stirred at 40° C. for 4 hr. N,N-Dimethylhydrazine (82.2 g, 1.37 mol) was added under ice-cooling, and the mixture was further stirred at room temperature for 0.5 hr. The reaction mixture was added dropwise to water (1000 ml), and the precipitated insoluble material was filtered to give an acylhydrazine compound N′,N′-dimethyl-2-(2-phenoxyethoxy)benzohydrazide 131.6 g (yield 70%) as a white powder.

reactant | methyl salicylate | 657 mmol, 100.0 g | C(C=1C(O)=CC=CC1)(=O)OC | C8H8O3
reactant | β-bromophenetole | 690 mmol, 138.8 g | BrCCOC1=CC=CC=C1 | C8H9BrO
reactant | potassium carbonate | 986 mmol, 136.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 1000 ml | O | H2O
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | methyl 2-(2-phenoxyethoxy)benzoate | O(C1=CC=CC=C1)CCOC1=C(C(=O)OC)C=CC=C1 | C16H16O4
